US07820654B2
Step (i). Synthesis of 6-phenyl-pyrimidine-2,4-diol
A mixture of 3-oxo-3-phenylpropionic acid ethyl ester (20 g, 104.05 mmol) and urea (6.24 g, 104.05 mmol) was reacted in a microwave irradiation for 3 minutes. The mixture was cooled to temperature in the range of 20-40° C. and diluted with ethyl alcohol (100 mL). The solid precipitated was filtered, washed with hexane (2×20 mL) to afford the desired compound as a yellow solid.

reactant | 3-oxo-3-phenylpropionic acid ethyl ester | 104.05 mmol, 20 g | C(C)OC(CC(C1=CC=CC=C1)=O)=O | C11H12O3
reactant | urea | 104.05 mmol, 6.24 g | NC(=O)N | CH4N2O
solvent | ethyl alcohol | 100 mL | C(C)O | C2H6O
product | 6-phenyl-pyrimidine-2,4-diol | C1(=CC=CC=C1)C1=CC(=NC(=N1)O)O | C10H8N2O2
